US07067517B2
4-(1-Ethylpropyl)piperazine-1-carboxylic acid naphthalen-1-yl ester hydrochloride salt
To a stirred mixture of 1-(1-ethylpropyl)piperazine (175 μl, 1.0 mmol) and dry DCM (10 ml) was added 1-napthalenyl chloroformate (225 mg, 1.1 mmol). The mixture was stirred overnight at room temperature and then diluted with DCM (50 ml). The reaction mixture was washed with 1 N NaOH (3×25 ml) and water (2×25 ml). The organic solution was concentrated and the residue was dissolved in a 0.5 N HCl solution (15 ml) and a small portion of acetonitrile. The acidic solution was concentrated and stirred with ethyl acetate (15 ml). The solid was isolated and dried to give 310 mg (85%) of the title compound as a solid.

reactant | 1-(1-ethylpropyl)piperazine | 1.0 mmol, 175 μl | C(C)C(CC)N1CCNCC1 | C9H20N2
reactant | 1-napthalenyl chloroformate | 1.1 mmol, 225 mg | ClC(=O)OC1=CC=CC2=CC=CC=C12 | C11H7ClO2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(1-Ethylpropyl)piperazine-1-carboxylic acid naphthalen-1-yl ester hydrochloride salt | 310 mg, 85% | Cl.C1(=CC=CC2=CC=CC=C12)OC(=O)N1CCN(CC1)C(CC)CC | InChI=1S/C20H26N2O2.ClH/c1-3-17(4-2)21-12-14-22(15-13-21)20(23)24-19-11-7-9-16-8-5-6-10-18(16)19;/h5-11,17H,3-4,12-15H2,1-2H3;1H
